US09085555B2
D. (2S,3S,4S)-2-(3-Chloro-2-fluoro-benzylcarbamoyl)-4-fluoro-3-(2-oxo-ethoxy)-pyrrolidine-1-carboxylic acid tert-butyl ester
Ozone was bubbled through a solution of (2S,3S,4S)-3-allyloxy-2-(3-chloro-2-fluoro-benzylcarbamoyl)-4-fluoro-pyrrolidine-1-carboxylic acid tert-butyl ester (59 mg, 0.137 mmol) in CH2Cl2 (20 mL) at −78° C. When the solution turned blue, ozone addition was stopped and nitrogen was passed through the solution until the blue color was discharged. Triphenylphosphine (35.9 mg, 0.137 mmol) was added to the ozonide solution at −78° C. and the reaction mixture was allowed to slowly reach RT. The reaction mixture was concentrated and the material thus obtained used without further purification in the next step. MS (UPLC): 433.4/435.4 [M+H]+, 477.4/579.5 [M+HCOO]−.

reactant | Ozone | O=[O+][O-] | O3
reactant | (2S,3S,4S)-3-allyloxy-2-(3-chloro-2-fluoro-benzylcarbamoyl)-4-fluoro-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.137 mmol, 59 mg | C(C)(C)(C)OC(=O)N1[C@@H]([C@@H]([C@H](C1)F)OCC=C)C(NCC1=C(C(=CC=C1)Cl)F)=O | C20H25ClF2N2O4
reactant | Triphenylphosphine | 0.137 mmol, 35.9 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | (2S,3S,4S)-2-(3-Chloro-2-fluoro-benzylcarbamoyl)-4-fluoro-3-(2-oxo-ethoxy)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H]([C@@H]([C@H](C1)F)OCC=O)C(NCC1=C(C(=CC=C1)Cl)F)=O | C19H23ClF2N2O5
